US04359418
With stirring, 975 g (4.37 moles) of 3,3-dimethyl-12-ethyl-1-azacyclododecene are added dropwise in the course of about 35 minutes to a solution of 450 g (4.6 moles) of sulfuric acid in 600 g of water. The clear, slightly yellowish solution is then treated with steam for 20 minutes in order to remove any aldehyde impurities. The aqueous solution is subsequently stirred in an autoclave for 3 hours at 50° C. under an oxygen pressure of 20 bar. The acid reaction mixture is neutralised with sodium hydroxide solution, affording 820 g (3.2 moles) of 11-amino-2,2-dimethyltridecanoic acid, corresponding to a yield of 73% of theory. Melting point: 164°-165° C.

reactant | 3,3-dimethyl-12-ethyl-1-azacyclododecene | 4.37 moles, 975 g | CC1(C=NC(CCCCCCCC1)CC)C | C15H29N
reactant | sulfuric acid | 4.6 moles, 450 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 600 g | O | H2O
product | 11-amino-2,2-dimethyltridecanoic acid | 3.2 moles, 820 g, yield of 73% | NC(CCCCCCCCC(C(=O)O)(C)C)CC | C15H31NO2
